US09079866B2
Racemic-5-{2′-[(3,5-Dimethylpiperazin-1-yl)sulfonyl]-3-fluorobiphenyl-4-yl}pyrazin-2-amine
The title compound was prepared in a manner similar to that described in Example 448 using 5-(2-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)-pyrazin-2-amine and Racemic-1-((2-bromophenyl)sulfonyl)-3,5-dimethylpiperazine. MS (ESI): mass calcd. for C22H24FN5O2S, 441.16; m/z found, 442.1 [M+H]+. 1H NMR (400 MHz, CD3OD) δ 8.37 (s, 1H), 8.24 (d, J=1.4, 1H), 8.17-8.14 (m, 1H), 7.99 (m, 1H), 7.79-7.73 (m, 1H), 7.68-7.63 (m, 1H), 7.49-7.46 (m, 1H), 7.37-7.32 (m, 2H), 3.49-3.42 (m, 2H), 3.14-3.01 (m, 2H), 2.47-2.39 (m, 2H), 1.17 (d, J=6.6, 6H).

reactant | 5-(2-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)-pyrazin-2-amine | FC1=C(C=CC(=C1)B1OC(C(O1)(C)C)(C)C)C=1N=CC(=NC1)N | C16H19BFN3O2
reactant | Racemic-1-((2-bromophenyl)sulfonyl)-3,5-dimethylpiperazine | BrC1=C(C=CC=C1)S(=O)(=O)N1CC(NC(C1)C)C | C12H17BrN2O2S
product | Racemic-5-{2′-[(3,5-Dimethylpiperazin-1-yl)sulfonyl]-3-fluorobiphenyl-4-yl}pyrazin-2-amine | CC1CN(CC(N1)C)S(=O)(=O)C1=C(C=CC=C1)C1=CC(=C(C=C1)C=1N=CC(=NC1)N)F | C22H24FN5O2S
